US05807883
A mixture of 3.89 g of methyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionate, 16 ml of a 2N sodium hydroxide aqueous solution and 100 ml of methanol was refluxed for 40 minutes. After the reaction mixture was cooled to room temperature, the solvent was removed by evaporation under reduced pressure. The residue was diluted with water, adjusted to pH 4 with 10% hydrochloric acid and then extracted with chloroform. After the extract was washed with water and dried, the solvent was removed by evaporation. The resulting crude crystals were recrystallized from ethyl acetate-hexane to afford 3.34 g of 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionic acid as colorless crystals. Melting point: 202° to 204° C., IR (Nujol) (cm-1): 3260, 1730, 1675, 1660, FAB-MS (m/z): 463 (MH+), 173 (base).

reactant | methyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionate | 3.89 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CCCCC)=O)CCC(=O)OC)C=CC1Cl | C24H26Cl2N2O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionic acid | 3.34 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CCCCC)=O)CCC(=O)O)C=CC1Cl | C23H24Cl2N2O4
